US09315458B2
M) ethyl 3-chloro-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate
To a solution of ethyl 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate (0.20 g) in dichloromethane (15.0 mL) were added triethylamine (0.10 g) and trifluoromethanesulfonic anhydride (0.27 g) under ice-cooling, and the mixture was stirred at room temperature for 16 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.25 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | ethyl 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate | 0.20 g | ClC=1C(=C(C(=O)OCC)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)O | C20H16ClF3N2O3
reactant | triethylamine | 0.10 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.27 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
product | ethyl 3-chloro-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 0.25 g | ClC=1C(=C(C(=O)OCC)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)OS(=O)(=O)C(F)(F)F | C21H15ClF6N2O5S
